US06130332
184.5 g (1.0 mol.) of cyanuric chloride were dissolved in 800 mL of acetonitrile at room temperature. Then, the solution was cooled to 0° C. The cooled solution was dropwise added with 303.7 g (5.0 mol.) of an aqueous 28-% ammonium solution over two hours while vigorously stirring in such a manner that the reaction temperature was kept less than 10° C. After the completion of the dropwise addition, the cooling was stopped and the mixture was stirred at room temperature for one hour. The mixture was gradually warmed and the mixture was further reacted at 45° C. for four hours. After cooling, the obtained product was separated through filtration and then, washed with a large amount of water. The filtered products were dried at 50° C. for six hours under vacuum to obtain 115 g of 2,4-diamino-6-chloro-1,3,5-triazine (yield: 79%).

reactant | cyanuric chloride | 1.0 mol, 184.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | ammonium | 5.0 mol, 303.7 g | [NH4+]
reactant | acetonitrile | 800 mL | C(C)#N | C2H3N
product | 2,4-diamino-6-chloro-1,3,5-triazine | 115 g, yield: 79% | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
